US06458935B1
A solution of 3-bromo-5-fluoroethoxynitrobenzene, as described above in Step D, (990 mg, 3.75 mmol) in tetrahydrofuran (22 mL) was added to a mixture of NaBH4/S3 (1.2 g) in tetrahydrofuran (15 mL) and the resulting mixture was placed in a 60° C. oil bath and heated overnight. The reaction was cooled to room temperature and concentrated using the rotary evaporator giving a yellow solid. Diethyl ether was added and 10% HCl until the pH was 1. The resulting mixture was filtered through celite and the layers were separated. The aqueous layer was washed with diethyl ether. The aqueous layer was made basic (pH>10) with diethyl ether present, the layers were separated and the aqueous layer was extracted with diethyl ether and ethyl acetate. The organic layers were combined and dried (MgSO4), filtered and concentrated in vacuo to give 3-bromo-5-fluoroethoxyaniline as a yellow oil.

reactant | 3-bromo-5-fluoroethoxynitrobenzene | BrC=1C=C(C=C(C1)OCCF)[N+](=O)[O-] | C8H7BrFNO3
reactant | NaBH4 | [BH4-].[Na+]
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 22 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-bromo-5-fluoroethoxyaniline | BrC=1C=C(N)C=C(C1)OCCF | C8H9BrFNO
